US09029545B2
Ethyl 2-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate
To a stirred solution of ethyl 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate (Description 31) (500 mg, 1.519 mmol) in DMF (10 mL) was added sodium tert-butoxide (365 mg, 3.80 mmol) and 3-chlorobenzenesulfonyl chloride (0.428 mL, 3.04 mmol). The whole mixture was stirred at RT under nitrogen for ca. 1.5 h. The reaction mixture was then diluted with ethyl acetate (ca. 30 mL) and water (ca. 50 mL). The organic phase was separated and the aqueous phase re-extracted with ethyl acetate (ca. 30 mL×2). The combined organic phase was dried over Na2SO4 and the solvent concentrated in vacuo. The residue was purified by normal phase chromatography, eluting with a gradient of 0-50% ethyl acetate in cyclohexane, to give the title compound (350 mg). LCMS (A) m/z: 504/506 [M+1]+, Rt 1.59 min (acidic).

reactant | ethyl 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 1.519 mmol, 500 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C)Br | C12H13BrN2O2S
reactant | sodium tert-butoxide | 3.80 mmol, 365 mg | CC(C)([O-])C.[Na+]
reactant | 3-chlorobenzenesulfonyl chloride | 3.04 mmol, 0.428 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | ca. 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | ca. 50 mL | O | H2O
product | Ethyl 2-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 350 mg | BrC1=C(C=2C(=NC(=C(C2NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)OCC)C)S1)C | C18H16BrClN2O4S2
